US06528510B1
To 4-isopropyl-7-methyl-6-thiocyanato-benzothiazol-2-yl-amine (Example L-4; 4.0 g, 17 mmol) dissolved in CH2Cl2 (25 mL) and pyridine (5 mL), was added methyl chloroformate at 0° C. The reaction mixture was stirred at room temperature for 2 hours. H2O was added to the reaction mixture followed by EtOAc (100 mL). The organic layer was washed with 2N HCl, H2O, saturated sodium bicarbonate solution and brine, and was dried (MgSO4). The solvents were evaporated, and the residue was purified by flash chromatography (100% hexanes to 25% EtOAc in hexanes) to give 2-(methyloxycarbonyl)amino-4-isopropyl-7-methyl-6-thiocyanato-benzothiazole. MS (APCI): 322 (M+H).

reactant | 4-isopropyl-7-methyl-6-thiocyanato-benzothiazol-2-yl-amine | 17 mmol, 4.0 g | C(C)(C)C1=CC(=C(C2=C1N=C(S2)N)C)SC#N | C12H13N3S2
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | H2O | O | H2O
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(methyloxycarbonyl)amino-4-isopropyl-7-methyl-6-thiocyanato-benzothiazole | COC(=O)NC=1SC2=C(N1)C(=CC(=C2C)SC#N)C(C)C | C14H15N3O2S2
